US09302989B2
N-(4-{[1-(3,3-dimethylbutyl)piperidin-4-yl]oxy}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 429, substituting 3,3-dimethylbutanal for isobutyraldehyde and N-(4-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide for N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide. 1H NMR (400 MHz, Pyridine-d5. Temp=90° C.) δ ppm 8.52-8.58 (m, 2H) 8.09 (s, 1H) 7.71-7.78 (m, 2H) 7.10 (d, J=4.88 Hz, 1H) 6.99-7.04 (m, 2H) 4.84 (dd, J=8.39, 1.68 Hz, 4H) 3.85 (d, J=13.43 Hz, 1H) 2.75-2.85 (m, 2H) 2.38-2.47 (m, 2H) 2.21-2.34 (m, 2H) 1.98 (d, J=2.14 Hz, 2H) 1.78-1.91 (m, 2H) 1.39-1.49 (m, 2H) 0.84-0.92 (m, 9H); MS (APCI(+)) m/e 423 (M+H)+.

reactant | isobutyraldehyde | C(C(C)C)=O | C4H8O
reactant | N-(4-(piperidin-4-yloxy)phenyl)-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxamide | N1CCC(CC1)OC1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C19H22N4O2
reactant | N-(4-(1,2,3,6-tetrahydropyridin-4-yl)phenyl)isoindoline-2-carboxamide | N1CCC(=CC1)C1=CC=C(C=C1)NC(=O)N1CC2=CC=CC=C2C1 | C20H21N3O
product | N-(4-{[1-(3,3-dimethylbutyl)piperidin-4-yl]oxy}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | CC(CCN1CCC(CC1)OC1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1)(C)C | C25H34N4O2
